US06235747B1
6-{4-[2-(Bis-cyclohexylmethyl-amino)-ethyl]-phenyl}-pyridin-2-ylamine Refer to Scheme 2
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 134 mg (0.277 mmol) 2-(2,5-dimethylpyrrol-1-yl)-6-{4-[2-(bis-cyclohexylmethyl-amino)-ethyl]-phenyl}-pyridine, 96 mg (1.387 mmol) hydroxylamine hydrochloride, 1 mL water and 5 mL ethanol. The solution was heated at 80° C. for 35 h, cooled, and poured into dilute aqueous hydrochloric acid. The aqueous layer washed with ethyl acetate, the pH adjusted to 11 with 1 N sodium hydroxide solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The resulting oil was taken up in ether and precipitated using 1 N HCl in ether. The product was collected as a tan solid, mp 75-85° C., 68 mg (51%).

reactant | 2-(2,5-dimethylpyrrol-1-yl)-6-{4-[2-(bis-cyclohexylmethyl-amino)-ethyl]-phenyl}-pyridine | 0.277 mmol, 134 mg | CC=1N(C(=CC1)C)C1=NC(=CC=C1)C1=CC=C(C=C1)CCN(CC1CCCCC1)CC1CCCCC1 | C33H45N3
reactant | hydroxylamine hydrochloride | 1.387 mmol, 96 mg | Cl.NO
reactant | water | 1 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-{4-[2-(Bis-cyclohexylmethyl-amino)-ethyl]-phenyl}-pyridin-2-ylamine | C1(CCCCC1)CN(CCC1=CC=C(C=C1)C1=CC=CC(=N1)N)CC1CCCCC1 | C27H39N3
